### ISSUE TITLE
prove ProbMethodCombinatorics.exists_cliqueFree_compl_cliqueFree_card_ge

### ISSUE THREAD

**Issue by yidiq7** [yidiq7/ProbMethodCombinatorics#4]
---
choir-task-version: 1
type: prove
target_file: ProbMethodCombinatorics/Introduction.lean
target_decl: ProbMethodCombinatorics.exists_cliqueFree_compl_cliqueFree_card_ge
project_ref:
  repo: yidiq7/ProbMethodCombinatorics
  commit: e8228ac54db2843f1c6dcc65e6f7a081f364c679
  toolchain: leanprover/lean4:v4.33.1
deps: []
blueprint_ref: ramsey_lower_bound_alteration
---

**Zhao, *Probabilistic Methods in Combinatorics*, Theorem 1.1.6** (`sources/`, book p. 4 = PDF p. 10). `R(k, k) > n - C(n, k) * 2 ^ (1 - C(k, 2))` for all `k, n` — the alteration-method improvement on Theorem 1.1.2, worth a factor of `√2` after optimization.

### The route

The alteration (or deletion) method. Rather than hoping a random coloring is already good, repair it:

1. Color every edge of `Kₙ` red/blue independently and uniformly.
2. Delete one vertex from each monochromatic `K_k`.

What survives has no monochromatic `K_k` by construction. Let `X` count the monochromatic `K_k`'s after step 1; then `E X = C(n, k) * 2 ^ (1 - C(k, 2))` by linearity of expectation, step 2 deletes at most `X` vertices, and so the surviving vertex set has expected size at least `n - E X`. Some coloring therefore leaves at least that many vertices.

In Lean the averaging is again a `Finset` sum over colorings, not a measure. The one genuinely fiddly part is step 2: you need a vertex set `T` meeting every monochromatic `K_k`, with `|T| ≤ X`, and then the induced coloring on `Fin m` where `m = n - |T|`. Transporting a graph along an injection `Fin m ↪ Fin n` and pushing `CliqueFree` across it (`SimpleGraph.comap`, `SimpleGraph.Embedding`, and `CliqueFree` under embeddings) is where the work is — plan for it rather than discovering it late.

### The statement's shape

The conclusion is `∃ m, ∃ G : SimpleGraph (Fin m)`, with `(n : ℝ) - C(n, k) * 2 ^ (1 - C(k, 2)) ≤ m` and `G.CliqueFree k ∧ Gᶜ.CliqueFree k` — the same red/`G`, blue/`Gᶜ` encoding as the other Ramsey node. Quantifying `m` existentially is how "`R(k, k) >` a real number" is said without a Ramsey number; picking the least `m` above the bound is the intended reading, and a larger `m` is strictly harder, so there is nothing to game.

When the bound is negative (small `n`, large `k`) `m = 0` discharges it immediately. That is faithful to the theorem, which is also trivial there.

### Facts worth knowing before you start

- **Route known but long.** This is the hardest node in Chapter 1; the deletion step is real work in Lean, not bookkeeping.
- `SimpleGraph.CliqueFree` transports along embeddings — find the right lemma before hand-rolling it.
- Consider proving the `n - |T|`-vertex restriction as a standalone lemma first; it is reusable and makes the main argument readable.
- **A reduction is an acceptable return here.** If you state and prove the expectation computation and the deletion lemma but cannot assemble the whole, return those as named lemmas.
- Remark 1.1.7's optimized `R(k, k) > (1/e + o(1)) k 2 ^ (k/2)` is **not** in scope.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: claim
protocol: 8
session: 397d08c9a7baa305
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: heartbeat
protocol: 8
session: 397d08c9a7baa305
```

_Lease refreshed 2026-09-11T16:38:45+00:00; this comment is edited in place._

**Comment by yidiq7** [comment]
```choir-defect
```

**This statement is wrong: it is false at `k = 0`, and I can prove its negation in Lean.**

This is the "this statement is wrong" case, not "this proof is hard" — so per `.choir-context.md` ("If you believe a statement is wrong, say so on the issue and stop") I have not written a proof and am releasing the claim.

### The defect

`SimpleGraph.CliqueFree G 0` is **unsatisfiable for every graph on every vertex type**, because `CliqueFree G n` unfolds to `∀ t, ¬ G.IsNClique n t` and `∅` is always a `0`-clique: `G.IsClique ∅` holds trivially and `(∅ : Finset V).card = 0`. So the conjunct `G.CliqueFree k` cannot hold when `k = 0`, no matter which `m` and `G` are produced — including `m = 0`, where one might hope the empty vertex type rescues it.

Checked against this project's pinned Mathlib (`v4.33.1`):

```lean
example (V : Type) (G : SimpleGraph V) : ¬ G.CliqueFree 0 := by
  intro h
  exact h ∅ ⟨by simp [SimpleGraph.IsClique], rfl⟩

-- even on the empty vertex type
example (G : SimpleGraph (Fin 0)) : ¬ G.CliqueFree 0 := by
  intro h
  exact h ∅ ⟨by simp [SimpleGraph.IsClique], rfl⟩
```

And the target statement itself, transcribed verbatim and refuted:

```lean
def Target : Prop := ∀ (k n : ℕ),
    ∃ (m : ℕ) (G : SimpleGraph (Fin m)),
      (n : ℝ) - (n.choose k : ℝ) * 2 ^ (1 - (k.choose 2 : ℤ)) ≤ (m : ℝ) ∧
        G.CliqueFree k ∧ Gᶜ.CliqueFree k

theorem target_false : ¬ Target := by
  intro h
  obtain ⟨m, G, -, hG, -⟩ := h 0 0
  exact hG ∅ ⟨by simp [SimpleGraph.IsClique], rfl⟩
```

Both compile. Note the refutation does not even use the cardinality bound — it discards it with `-` — so this is not a numeric edge case that a cleverer choice of `m` could absorb.

### `k = 0` is the only bad case

The mathematics of Theorem 1.1.6 is fine everywhere else, so this is a missing guard, not a wrong theorem:

- `k = 1`: the bound is `n - n * 2 ^ 1 = -n ≤ 0`, and `Fin 0` has no singletons, so `m = 0` discharges it. Verified:

```lean
example : ∃ (m : ℕ) (G : SimpleGraph (Fin m)),
      ((5 : ℕ) : ℝ) - ((5 : ℕ).choose 1 : ℝ) * 2 ^ (1 - ((1 : ℕ).choose 2 : ℤ)) ≤ (m : ℝ) ∧
        G.CliqueFree 1 ∧ Gᶜ.CliqueFree 1 := by
  refine ⟨0, ⊥, by norm_num, ?_, ?_⟩ <;>
    · intro t ht
      obtain ⟨x, hx⟩ := Finset.card_eq_one.mp ht.2
      exact absurd x.2 (by omega)
```

- `k ≥ 2`: the intended alteration argument applies, and the small-`n` cases are covered by the bound going negative.

### Suggested repair

Add the hypothesis the theorem needs, e.g. `(hk : 1 ≤ k)` — or `(hk : 2 ≤ k)` to match the guard `isTwoColorable_of_card_lt` already carries in `Introduction.lean`. `1 ≤ k` is the weakest guard that makes the statement true.

Worth noting the sibling node is **not** affected: `exists_cliqueFree_compl_cliqueFree_of_choose_mul_lt_one` (#3) carries `h : (n.choose k : ℝ) * 2 ^ (1 - (k.choose 2 : ℤ)) < 1`, which at `k = 0` reads `2 < 1` and is itself unsatisfiable, so that statement is vacuously fine there. #4 is the one that dropped the guard by quantifying over `k` unconditionally.

I am happy to take this task again once the statement carries a guard — the deletion-step work `TASK.md` describes is unaffected by the repair.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: release
protocol: 8
```
